US06825188B2
b) (S)-8-[2-[6-(Methylamino)pyridin-2-yl]-1-ethoxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
According to the method of Example 37(c), except substituting methyl (S)-8-[2-[6-(methylamino)pyridin-2-yl]-1-ethoxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate for the methyl (R)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, the title compound was prepared as a white solid: MS (ES) m/e 452.2 (M+H)+. Anal. Calcd for C22H24F3N3O4.0.7 H2O: C, 56.94; H, 5.52; N, 9.05. Found: C, 56.80; H, 5.19; N, 8.85.

reactant | methyl (S)-8-[2-[6-(methylamino)pyridin-2-yl]-1-ethoxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | CNC1=CC=CC(=N1)CCOC1=CC2=C(C[C@H](C(N(C2)CC(F)(F)F)=O)CC(=O)OC)C=C1 | C23H26F3N3O4
reactant | methyl (R)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | N1=C(C=CC=C1)NCCCOC1=CC2=C(C[C@@H](C(N(C2)CC(F)(F)F)=O)CC(=O)OC)C=C1 | C23H26F3N3O4
solvent | H2O | O | H2O
product | (S)-8-[2-[6-(Methylamino)pyridin-2-yl]-1-ethoxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | CNC1=CC=CC(=N1)CCOC1=CC2=C(C[C@H](C(N(C2)CC(F)(F)F)=O)CC(=O)O)C=C1 | C22H24F3N3O4
